US07402595B2
6-bromo-2-(1-methylcarbamoylpiperidin-4-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-1-oxo-4-phenyl-2-(piperidin-4-ylmethyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride (100 mg) in tetrahydrofuran (5 ml) were added triethylamine (0.06 ml) and methylisocyanate (0.018 ml), and the mixture was stirred at room temperature for 24 hrs. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by preparative HPLC to give the title compound (34 mg, 33%).

reactant | 6-bromo-1-oxo-4-phenyl-2-(piperidin-4-ylmethyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester hydrochloride | 100 mg | Cl.COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1CCNCC1
reactant | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | methylisocyanate | 0.018 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-bromo-2-(1-methylcarbamoylpiperidin-4-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 34 mg, 33% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1CCN(CC1)C(NC)=O | C25H26BrN3O4
